US07064143B1
N-Benzyl 4-hydroxy-1-methyl-1H-indole-2-carboxamide
From 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid and benzylamine the title compound was prepared by a method analogous to that described in Example 11. MS ES (M++H)=281.

reactant | 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)O | C17H15NO3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-Benzyl 4-hydroxy-1-methyl-1H-indole-2-carboxamide | C(C1=CC=CC=C1)NC(=O)C=1N(C2=CC=CC(=C2C1)O)C | C17H16N2O2
